US09126981B2
Synthesis of N-(2,4-difluorobenzyl)-2,2-diethoxyethanamine (Compound IX-17)
According to the procedure described in the synthesis method of Compound IX-2, 2,2-diethoxyethanamine (75.6 ml, 520 mmol) was reacted with 2,4-difluorobenzaldehyde (75 g, 520 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=5:1 and 3:1) to obtain the title compound (50.0 g, 36%).

reactant | 2,2-diethoxyethanamine | 520 mmol, 75.6 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | 2,4-difluorobenzaldehyde | 520 mmol, 75 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
product | N-(2,4-difluorobenzyl)-2,2-diethoxyethanamine | 50.0 g, 36% | FC1=C(CNCC(OCC)OCC)C=CC(=C1)F | C13H19F2NO2
